Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Trazodone
 
Attending: ___.
 
Chief Complaint:
Direct admission for chemo initiation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with history of alcoholic 
cirrhosis
and new l adnexal mass c/b pulmonary mets concerning for
metastatic ovarian cancer, here as a direct admission for chemo
initiation.

Ms. ___ ovarian cancer is a recent diagnosis. She
presented on ___ to the ER with abdominal pain and
bloating, and found with 9.8cm/10-cm left adnexal mass with
elevated CA 125 to 1172. CT chest in the following weeks noted
multiple bilateral pulmonary mets ranging in size from 2-9mm. CT
guide biopsy of a concerning right liver lobe subcapsular lesion
was negative for malignancy. In recent weeks, Ms. ___ has
been suffering from worsened abdominal pain and bloating.
Otherwise her ROS is unremarkable. No infectious symptoms, 
having
regular BMs without blood. 

Other remarkable medical history includes alcoholic cirrhosis 
per
fibroscan on ___ with largely normal LFTs, varices noted in
middle esophagus on EGD on ___, and and MELD score of 6. Her
last alcohol drink was ___.    

 
Past Medical History:
Pemphigus vulgaris
GERD
Alcohol cirrhosis 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:

GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABD: abdomen soft, nondistended, RUQ and lower quadrant
tenderness to palpation, no rebound/guarding, no
hepatosplenomegaly  
EXT: wwp, no cyanosis, clubbing, or edema, 2+ radial pulses
bilaterally  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  

===
DISCHARGE EXAM:

GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABD: abdomen soft, nondistended, RUQ and lower quadrant
tenderness to palpation, no rebound/guarding
EXT: wwp, no cyanosis, clubbing, or edema, 2+ radial pulses
bilaterally  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
 
Pertinent Results:
Admission labs:
___ 09:44AM BLOOD WBC-5.9 RBC-3.99 Hgb-10.4* Hct-33.0* 
MCV-83 MCH-26.1 MCHC-31.5* RDW-12.0 RDWSD-36.8 Plt ___
___ 09:44AM BLOOD Glucose-96 UreaN-4* Creat-0.7 Na-136 
K-4.0 Cl-97 HCO3-28 AnGap-11
___ 09:44AM BLOOD ALT-17 AST-23 LD(LDH)-277* AlkPhos-164* 
TotBili-0.3

DIscharge labs:
___ 07:22AM BLOOD WBC-5.3 RBC-4.15 Hgb-10.8* Hct-34.7 
MCV-84 MCH-26.0 MCHC-31.1* RDW-12.0 RDWSD-36.6 Plt ___
___ 07:22AM BLOOD Glucose-94 UreaN-6 Creat-0.5 Na-137 K-4.9 
Cl-95* HCO3-31 AnGap-11
___ 07:22AM BLOOD ALT-14 AST-18 LD(LDH)-266* AlkPhos-154* 
TotBili-0.3

Imaging:
None
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with history of alcoholic 
cirrhosis
and new l adnexal mass c/b possible pulmonary and liver mets
concerning for metastatic ovarian cancer, here as a direct
admission for chemo initiation. C1D1 carboplatin on ___.

#Metastatic ovarian cancer
Diagnosed on ___ in setting of new l adnexal mass. Imaging
concerning for bilateral pulmonary and liver mets. Liver
lesion biopsy was negative for malignancy but was possibly an
inadequate sample. She received cycle 1 of carboplatin 
(___) with good tolerance.

#Alcohol cirrhosis
Meld score 6. Varcies noted in mid esophagus on EGD ___. No 
symptoms of withdrawal here. 

#Pain control
Ms. ___ has significant pain from her ovarian cancer. Her 
pain was adequately controlled on MS contin 30mg BID and 
oxycodone 10mg q4hr as needed. 

#Pemphigus vulgaris
On prednisone 5mg daily, with GI ppx with omeprazole 40mg daily. 
No changes were made here. 

--
Transitional issues:
[] ___ with Dr. ___ for continued chemo management in 3 
weeks.
[] titrate opiate regimen per evolving pain burden. discharged 
with 10 day supply until PCP ___ on ___
[] consider Bactrim ppx given daily prednisone for pemphigus 
vulgaris.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

4. Omeprazole 40 mg PO DAILY 
5. Morphine SR (MS ___ 15 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen [8 Hour Pain Reliever] 650 mg 1 tablet(s) by 
mouth every 6 hours Disp #*30 Tablet Refills:*0 
2.  Dexamethasone 4 mg PO BID Duration: 2 Days 
RX *dexamethasone 4 mg 1 tablet(s) by mouth twice daily Disp #*3 
Tablet Refills:*0 
3.  Ondansetron 8 mg PO BID Duration: 2 Days 
RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours Disp #*3 
Tablet Refills:*0 
4.  Morphine SR (MS ___ 30 mg PO Q12H 
RX *morphine [MS ___ 30 mg 1 tablet(s) by mouth twice daily 
Disp #*20 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every 4 hours Disp #*60 
Tablet Refills:*0 
6.  FoLIC Acid 1 mg PO DAILY  
7.  Omeprazole 40 mg PO DAILY  
8.  PredniSONE 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ovarian cancer, possibly metastatic 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 DISCHARGE INSTRUCTIONS  
 ======================  
 Dear Ms. ___,
 It was a pleasure caring for you at ___ 
___.  
 WHY WAS I IN THE HOSPITAL?  
 -You were admitted to for chemotherapy initation. 
 WHAT HAPPENED TO ME IN THE HOSPITAL?  
 -You received your first cycle of chemotherapy.
 -Your pain was managed.

 WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  
 We wish you the best!  
 Sincerely,  
 Your ___ Team 
 
Followup Instructions:
___